US07259183B2
Oxalylchloride (0.86 ml, 10.2 mmol) was added dropwise to a suspension of 4-bromo-2-chlorobenzoic acid (2.00 g, 8.5 mmol) in DCM (20 ml) at rt. After the addition of 5 drops of DMF, the reaction mixture was refluxed for 4 h, then cooled to rt and concentrated in vacuo to give 4-bromo-2-chloro-benzoyl chloride (2.15 g, 100%) which was used in the following step without further purification. 1H NMR (CDCl3, 300 MHz): δ 7.98 (d, J=8.5 Hz, 1H), 7.70 (d, J=2 Hz, 1H), 7.57 (dd, J=2 and 8 Hz 1H).

reactant | Oxalylchloride | 10.2 mmol, 0.86 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 4-bromo-2-chlorobenzoic acid | 8.5 mmol, 2.00 g | BrC1=CC(=C(C(=O)O)C=C1)Cl | C7H4BrClO2
solvent | DCM | 20 ml | C(Cl)Cl | CH2Cl2
catalyst | DMF | 5 drops | CN(C)C=O | C3H7NO
product | 4-bromo-2-chloro-benzoyl chloride | 2.15 g, 100% | BrC1=CC(=C(C(=O)Cl)C=C1)Cl | C7H3BrCl2O
